US05035740
To a stirred, cold (0° C.) solution of 4.16 g (0.0100 mole) of methyl 2-chloro-3-[2,4-dichloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenyl]propionate in 15 mL of N,N-dimethylformamide was added portionwise 0.29 g (0.012 mole) of sodium hydride. After complete addition the reaction mixture was allowed to warm to room temperature and was stirred for 30 minutes. The reaction mixture was heated at 60° C. for six hours and then was stirred at room temperature for approximately 18 hours. The reaction mixture was poured into ice water, and the resultant aqueous mixture was extracted with four portions of diethyl ether. The extracts were combined and washed successively with water and an aqueous, saturated sodium chloride solution. The washed organic phase was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure to give a white foam. The foam was purified by column chromatography on silica gel, eluting with n-heptane:ethyl acetate (4:1), to give 1.63 g of methyl 3-[2,4-dichloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenyl]propenoate as a solid, m.p. 148°-151° C., Compound A39 of Table 1A.

reactant | methyl 2-chloro-3-[2,4-dichloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenyl]propionate | 0.0100 mole, 4.16 g | ClC(C(=O)OC)CC1=C(C=C(C(=C1)N1N=C(N(C1=O)C(F)F)C)Cl)Cl | C14H12Cl3F2N3O3
reactant | sodium hydride | 0.012 mole, 0.29 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | methyl 3-[2,4-dichloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenyl]propenoate | 1.63 g | ClC1=C(C=C(C(=C1)Cl)N1N=C(N(C1=O)C(F)F)C)C=CC(=O)OC | C14H11Cl2F2N3O3
